US05866594
Synthesis of methyl 3-formyl-4,7-dimethylindole-2-carboxylate (compound 37)
A 500-ml 3-necked flask dried with heating was charged with 71 ml of anhydrous DMF. Then 21.5 ml (230 mmol) of phosphorus oxychloride was added dropwise at O° C. over a period of 40 minutes and stirring was continued until the solution turned red. A solution of 50 g (246 mmol) of methyl 4,7-dimethylindole-2-carboxylate in 200 ml of anhydrous DMF was added dropwise at 20°-30° C. over a period of at least 30 minutes, and the reaction mixture was stirred at 90° C. for 2 hours. The reaction mixture was poured upon 500 g of ice and made basic by gradually adding 225 ml of aqueous solution of 40 g of sodium hydroxide. The solution thus obtained was refluxed for 1 minute and immediately filtered. The crystals precipitated were washed with 100 ml of water four times and dried under reduced pressure. The crude product was purified by silica gel column chromatography to provide 29.5 g of light yellow crystals. Yield: 26%

reactant | phosphorus oxychloride | 230 mmol, 21.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | methyl 4,7-dimethylindole-2-carboxylate | 246 mmol, 50 g | CC1=C2C=C(NC2=C(C=C1)C)C(=O)OC | C12H13NO2
reactant | sodium hydroxide | 40 g | [OH-].[Na+]
reactant | DMF | 200 ml | CN(C)C=O | C3H7NO
product | methyl 3-formyl-4,7-dimethylindole-2-carboxylate | 29.5 g, Yield: 26% | C(=O)C1=C(NC2=C(C=CC(=C12)C)C)C(=O)OC | C13H13NO3
